US04849443
6.1 g of aluminum chloride and 20 ml of methylene chloride were mixed together at -65° C. under an inert atmosphere and a solution of 4.61 g of 2-trifluoromethyl-(1H)-indole (J. Org. Chem., 1974 Vol. 39, p. 1836), 1.4 ml of nitromethane and 20 ml of methylene chloride were added at -60° C. 3.3 ml of dichloromethyl ether in solution in 10 ml of methylene chloride were added to the suspension of the resulting mixture was stirred for 15 minutes at -65° C. The temperature was allowed to rise and at about -10° C., a strong evolution of hydrochloric acid was observed which ceased at about 0° C. The black solution obtained was stirred for 30 minutes at 25° C. and the reaction mixture was poured into water and extracted with methylene chloride. The organic phases were washed with an aqueous solution of sodium bicarbonate, then with water and concentrated to dryness under reduced pressure to obtain 4.6 g of 2-trifluoromethyl-3-formyl-(1H)-indole.

reactant | aluminum chloride | 6.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-trifluoromethyl-(1H)-indole | 4.61 g | FC(C=1NC2=CC=CC=C2C1)(F)F | C9H6F3N
reactant | dichloromethyl ether | 3.3 ml | ClC(Cl)OC(Cl)Cl | C2H2Cl4O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | nitromethane | 1.4 ml | [N+](=O)([O-])C | CH3NO2
product | 2-trifluoromethyl-3-formyl-(1H)-indole | 4.6 g | FC(C=1NC2=CC=CC=C2C1C=O)(F)F | C10H6F3NO
